US08461179B1
A mixture of 1-(4-chloro-5-(1-ethyl-7-((4-methoxybenzyl)(methyl)amino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(4-fluoro-3-(morpholinomethyl)phenyl)urea (152 mg, 0.216 mmol) in TFA (3 mL) was stirred under Ar for 3 h. The mixture was concentrated to dryness, treated with EtOAc and satd. NaHCO3 and stirred for 0.5 h. The resulting solid was collected via filtration and dried to afford 1-(4-chloro-5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(4-fluoro-3-(morpholinomethyl)phenyl)urea (111 mg, 76% yield). 1H NMR (400 MHz, DMSO-d6): δ 9.12 (s, 1H), 8.63 (d, J=2.5 Hz, 1H), 8.41 (s, 1H), 8.15 (d, J=8.7 Hz, 1H), 7.73 (s, 1H), 7.53 (d, J=11.0 Hz, 1H), 7.47 (dd, J=6.5, 2.8 Hz, 1H), 7.30 (ddd, J=8.9, 4.5, 2.8 Hz, 1H), 7.10-7.01 (m, 2H), 6.24 (s, 1H), 4.14 (q, J=7.1 Hz, 2H), 3.53 (t, J=4.4 Hz, 4H), 3.44 (s, 2H), 2.86 (d, J=4.9 Hz, 3H), 2.35 (m, 4H), 1.20 (t, J=7.0 Hz, 3H); MS (ESI) m/z: 583.2 [M+H]+.

reactant | 1-(4-chloro-5-(1-ethyl-7-((4-methoxybenzyl)(methyl)amino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(4-fluoro-3-(morpholinomethyl)phenyl)urea | 0.216 mmol, 152 mg | ClC1=CC(=C(C=C1C=1C(N(C2=CC(=NC=C2C1)N(C)CC1=CC=C(C=C1)OC)CC)=O)NC(=O)NC1=CC(=C(C=C1)F)CN1CCOCC1)F | C37H37ClF2N6O4
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(4-chloro-5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(4-fluoro-3-(morpholinomethyl)phenyl)urea | 111 mg, 76% yield | ClC1=CC(=C(C=C1C=1C(N(C2=CC(=NC=C2C1)NC)CC)=O)NC(=O)NC1=CC(=C(C=C1)F)CN1CCOCC1)F | C29H29ClF2N6O3
